US04536402
(E)-2-[(Amino)-4-fluorophenylmethylene]-benzo[b]thiophen-3(2H)-one-1-oxide
2.61 gm (9.61 mmols) of (E)-2-[(amino)-4-fluorophenylmethylene]-benzo[b]thiophen-3(2H)-one were dissolved in 50 ml of dichloromethane, the solution was cooled to -70° C, and then a solution of 1.5 gm (11.1 mmols) of sulfuryl chloride in 5 ml of dichloroethane was added dropwise thereto. After 15 hours, 20 ml of 95% ethanol were added, and the reaction mixture was brought to room temperature by removal of the cooling bath. It was then neutralized with aqueous sodium carbonate, the dichloromethane phase was dried with sodium sulfate, the solvent was evaporated in vacuo, and the residue was recrystallized from glacial acetic acid/ethanol (1:4 v/v).

reactant | (E)-2-[(amino)-4-fluorophenylmethylene]-benzo[b]thiophen-3(2H)-one | 9.61 mmols, 2.61 gm | N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=C(C=C2)F | C15H10FNOS
reactant | sulfuryl chloride | 11.1 mmols, 1.5 gm | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
product | (E)-2-[(Amino)-4-fluorophenylmethylene]-benzo[b]thiophen-3(2H)-one-1-oxide | N\C(=C\1/C(C2=C(S1=O)C=CC=C2)=O)\C2=CC=C(C=C2)F | C15H10FNO2S
